US04276417
6 g. of diethyl 6-diallylamino-s-triazine-2,4-dicarbamate-3-oxide are suspended in 120 ml. of dimethylformamide and warmed to 140° C. for 20 minutes under an argon atmosphere and while stirring. The solvent is then evaporated off under reduced pressure and the residue is recrystallized from methylene chloride/ethanol/diethyl ether, there being obtained pure ethyl 5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazine-7-carbamate, having a melting point of 172°-174° C.

reactant | diethyl 6-diallylamino-s-triazine-2,4-dicarbamate-3-oxide | C(C=C)N(C1=NC(=[N+](C(=N1)NC(=O)OCC)[O-])NC(=O)OCC)CC=C | C15H22N6O5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazine-7-carbamate | C(C=C)N(C1=NC=2N(C(=N1)NC(=O)OCC)OC(N2)=O)CC=C | C13H16N6O4
